US08258131B2
Preparation of N-[4-(4-fluorophenyl)-2,2-dimethyl-2H-chromen-7-yl]methanesulfonamide
Under ice-cooling, pyridine (90 μL) and methanesulfonyl chloride (60 μL) were added dropwise to a solution of [4-(4-fluorophenyl)-2,2-dimethyl-2H-chromen-7-yl]amine (a compound of Reference Example 5(5), 100 mg) in chloroform (3 mL), and the mixture was stirred at room temperature for 2 hours. The reaction mixture was purified by column chromatography on NH-silica gel (Chromatorex NH-silica gel, Solvent: chloroform/methanol=100/0 to 90/10) to give the titled compound (123 mg) as a colorless powder.

reactant | pyridine | 90 μL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 60 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | [4-(4-fluorophenyl)-2,2-dimethyl-2H-chromen-7-yl]amine | FC1=CC=C(C=C1)C1=CC(OC2=CC(=CC=C12)N)(C)C | C17H16FNO
solvent | chloroform | 3 mL | C(Cl)(Cl)Cl | CHCl3
product | N-[4-(4-fluorophenyl)-2,2-dimethyl-2H-chromen-7-yl]methanesulfonamide | 123 mg | FC1=CC=C(C=C1)C1=CC(OC2=CC(=CC=C12)NS(=O)(=O)C)(C)C | C18H18FNO3S
